US05726175
0.58 g of ethyl-chloro-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-2-carboxylate in suspension in 10 ml of 6N hydrochloric acid is heated to reflux for 24 hours. After cooling to a temperature close to 20° C., the insoluble matter is filtered off, washed with water and dried under reduced pressure (1 mm Hg; 0.13 kPa) at 45° C. 0.38 g of 7-chloro-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]-pyrazine-2-carboxylic acid is thus obtained in the form of a beige powder whose melting point is higher than 260° C. (analysis C14H10ClN3 O4 ; % calculated C: 52.60, H: 3.15, Cl: 11.09, N: 13.14; % found C: 52.9, H: 3.3, Cl: 10.8, N: 12.9); 1H spectrum in DMSO, T=300K, δ in ppm (300 MHz): 4.02 (2H, s, CH2), 7.37 (1H, d, J=7 Hz, CH arom.), 7.60 (1H, d, J=7 Hz, CH arom.), 7.92 (1H, s, CH arom.), 8.52 (1H, s, CH arom.), 12.45 (1H, s, NH)).

reactant | ethyl-chloro-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-2-carboxylate | 0.58 g | C(C)N1C(C=2N(C3=C1C=1C=CC=CC1C3)C(=C(N2)C(=O)[O-])Cl)=O
reactant | hydrochloric acid | 6N, 10 ml | Cl | ClH
product | 7-chloro-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]-pyrazine-2-carboxylic acid | 0.38 g | ClC=1C=CC=2CC3=C(NC(C=4N3C=C(N4)C(=O)O)=O)C2C1 | C14H8ClN3O3
